Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin / ceftriaxone
 
Attending: ___.
 
Chief Complaint:
LLE Pain, swelling
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
___ w/ PMHx of provoked DVT and PE (s/p IVF filter, on Xarelto)
who p/w worsening LLE pain, redness, and swelling x2 days, found
to have extensive of DVT to Lt common iliac.

Patient denies any recent trauma or wounds on her foot. Patient
denies any fevers. Patient denies any hemoptysis although she
does have a productive cough without associated shortness of
breath or chest pain. No nausea no vomiting no black or bloody
stools. Patient states that she is consistent with her Xarelto
dosing. Patient currently lives at assisted living facility 
where
she gets around by wheelchair and denies any falls recently
although she had a fall ___ months prior for which she was
previously evaluated.

Of note, patient could note recall code status but stated that 
it
is in her MOLSt form. Her MOLST for in Atruis states she is Full
Code

In the ED, initial vitals: 98.7 84 121/78 14 96% RA 

EXAM
Left lower extremity swelling tenderness to palpation with
pitting edema to the knee and erythema to the mid thigh with
warmth. 

LABS:
- CBC: WBC 13.9, otherwise WNL
- Chem7: unremarkable
- Lactate 2.6 -> 3.0
- TropT: neg x1
- BNP: ___

IMAGING:
- CXR: Mild left base atelectasis. Possible very minimal
interstitial edema.

- B/L ___: 
Deep venous thrombosis involving the left common femoral vein
with extension into the proximal greater saphenous vein.
Subcutaneous edema within the left lower extremity. Evaluation 
of
the right lower extremity is unremarkable.

- CTA A/P:
1. Complete thrombosis of left common iliac vein is identified.
The thrombosis extends into the external iliac and common 
femoral
veins where it becomes partially occlusive. Right common iliac
vein and IVC are patent. IVC filter is in place.
2. Uterine endometrial cavity is distended. Consider nonemergent
pelvic ultrasound for further evaluation for any endometrial
pathology.

MEDS GIVEN:
___ 14:50 IV Heparin Started 1150 units/hr 
___ 17:00 IV Vancomycin 
___ 19:35 IV Vancomycin 1000 mg 
___ 19:35 IV CefTRIAXone  
___ 19:38 IVF 500 mL NS   
___ 20:56 IV CefTRIAXone 1 g  
___ 21:02 IVF 500 mL NS 500 mL 

On the floor,  
Patient confirmed above history. She did not complain of 
anything
other than leg pain. She could not recall what brought her to 
the
hospital but agreed once prompted. 
 

REVIEW OF SYSTEMS:  
Complete ROS obtained and is otherwise negative. 
 
Past Medical History:
Lumbar spinal stenosis
Obesity
Mild cognitive impairment
Bowel/Bladder incontinence
PE
Falls
 
Social History:
___
Family History:
Mother with cervical cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
======================
VITALS: T 98.6 PO BP 124 / 72 HR 85 RR 20 94% room air
GENERAL: AOx1-2, NAD  
HEENT: Pupils equal, round, and reactive bilaterally, 
extraocular
muscles intact.  Oropharynx is clear.  
NECK:  No cervical lymphadenopathy.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs 
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema, no sign of
atrophy/hypertrophy. Pulses DP/Radial 2+ bilaterally.    
NEUROLOGIC: no gross motor or sensory deficits

DISCHARGE PHYSICAL EXAM:
======================
Vital signs: T 98.3 BP 145/83 HR 75 RR 2097% on room air 
GENERAL: AOx1, NAD  
HEENT: Pupils equal, round, and reactive bilaterally, 
extraocular
muscles intact.  Oropharynx is clear.  
NECK:  No cervical lymphadenopathy.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs 
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: 2+ distal pulse on RLE and 2+ distal pulse on LLE.
SKIN: LLE with markedly improved erythema which appears to be
receding from the outline, no longer warm to touch, still with
sensation and pulses, improved appearance of 2 cm blister with
simple fluid draining from it at posterior aspect of left calf,
rash on chest has resolved, flushed cheeks, pink papular rash on
arms and back bilaterally
NEUROLOGIC: no gross motor or sensory deficits
 
Pertinent Results:
ADMISSION LABS:
==============
___ 12:45PM BLOOD WBC-13.9* RBC-4.38 Hgb-14.2 Hct-41.7 
MCV-95 MCH-32.4* MCHC-34.1 RDW-14.6 RDWSD-51.0* Plt ___
___ 12:45PM BLOOD Neuts-82.1* Lymphs-6.7* Monos-10.6 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-11.44* AbsLymp-0.93* 
AbsMono-1.48* AbsEos-0.00* AbsBaso-0.03
___ 12:45PM BLOOD Glucose-147* UreaN-31* Creat-1.1 Na-139 
K-3.6 Cl-99 HCO3-24 AnGap-16
___ 02:03PM BLOOD ___ PTT-27.9 ___
___ 09:40AM BLOOD Calcium-8.9 Phos-2.3* Mg-2.2
___ 12:59PM BLOOD Lactate-2.6*
___ 09:10PM BLOOD Lactate-2.0
___ 03:04PM URINE Color-Yellow Appear-Hazy* Sp ___
___ 03:04PM URINE Blood-SM* Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 03:04PM URINE RBC-1 WBC-3 Bacteri-FEW* Yeast-NONE Epi-2

INTERIM LABS:
===========
___ 05:15AM BLOOD ALT-24 AST-37 LD(LDH)-220 AlkPhos-99 
TotBili-0.7

MICRO LABS:
==========
___ CULTUREBlood Culture, 
Routine-PENDINGINPATIENT NO GROWTH TO DATE
___ CULTUREBlood Culture, 
Routine-PENDINGINPATIENT NO GROWTH TO DATE
___ CULTURE-FINALEMERGENCY WARD 
NEGATIVE
___ CULTUREBlood Culture, 
Routine-FINALEMERGENCY WARD NEGATIVE

IMAGING:
========
Lower extremity US (___): Deep venous thrombosis involving the 
left common femoral vein with extension into the proximal 
greater saphenous vein.  Subcutaneous edema within the left 
lower extremity. No evidence of right lower extremity deep 
venous thrombosis.

CTAP w/ contrast (___): 1. Partially occlusive deep vein 
thrombosis of left common iliac vein is
identified.  The thrombosis extends into the external iliac and 
common femoral veins. Right common iliac vein and IVC are 
patent. IVC filter is in place. 2. Uterine endometrial appears 
fluid distended, consider nonemergent pelvic ultrasound for 
further evaluation for any endometrial pathology.

CXR (___): Mild left base atelectasis.  Possible very minimal 
interstitial edema.

Pelvic US (___): 1. Evaluation of the endometrial echotexture 
is limited.  Endometrium thickness of 7 mm does not warrant 
further workup unless there is history of vaginal bleeding.  If 
patient has vaginal bleeding, endometrium would be considered 
thickened in a postmenopausal patient and gynecological 
evaluation would be recommended.
 
DISCHARGE LABS:
==============
___ 05:35AM BLOOD WBC-9.7 RBC-3.62* Hgb-11.3 Hct-34.1 
MCV-94 MCH-31.2 MCHC-33.1 RDW-14.5 RDWSD-50.1* Plt ___
___ 05:35AM BLOOD ___ PTT-34.6 ___
___ 05:35AM BLOOD Glucose-96 UreaN-12 Creat-0.6 Na-140 
K-3.4 Cl-100 HCO3-25 AnGap-15
___ 05:35AM BLOOD Calcium-8.0* Phos-3.1 Mg-1.___ w/ PMHx of provoked DVT and PE (s/p IVF filter, on Xarelto) 
who p/w worsening LLE pain, redness, and swelling x2 days, found 
to have extensive of DVT to Lt common iliac and cellulitis. 

ACUTE ISSUES:
=============
# Recurrent deep venous thrombosis: 
Pt with hx of provoked DVT, PE iso spinal surgery (s/p IVC 
filter) in ___ on Xarelto, p/w 2d of worsening LLE swelling, 
redness, and pain found to have extension of DVT into Lt common 
iliac vein.  last colonscopy > ___ years, mammogram unsure ? "a 
few years", ovaries/uterus intact. No recent weight changes, 
bowels normal. husband states she is quite sedentary. Hematology 
oncology was consulted for assistance with choosing and 
anticoagulation agent. She was initially started on heparin drip 
which was transitioned to Lovenox, and she underwent a bridge to 
warfarin. Continued daily dosing of warfarin based on INR

#Left lower extremity cellulitis: 
Likely cellulitis on LLE given elevated WBC, focal area of 
erythema below knee. Initially on vanc/CTX but had rash so CTX 
was dc'ed after 1 day. Then on vanc/levo, which was narrowed to 
Bactrim on ___. However, rash worsened off the vanc and 
leukocytosis returned and appearance of 2 cm blister so was 
restarted on vanc/bactrim/flagyl on ___, which was then 
narrowed to vancomycin on ___. Treated with IV vancomycin 
until ___ at which point she was transitioned to clindamycin 
450mg
QID based on ID recommendations. 

# Rash: 
Was noted to have diffuse papular pink rash on bilateral arms 
and back on ___ which was pleuritic, no blistering
lesions, which is likely secondary to an autoeczematization 
reaction  in the setting of the cellulitis versus reaction to
Vancomycin. Hydrocortisone cream as needed.

# Incidentally found uterine distended endometrial cavity. 
US with nonspecific findings of 7 mm endometrial wall. Further 
work-up only if complaining of post-menopausal bleeding

CHRONIC ISSUES:
===============
# Hypertension: Patient unsure if she take HCTZ. SBP was 120's 
on arrival.
Will hold for now

====================
TRANSITIONAL ISSUES:
====================
- New Meds:  Clindamycin 450 mg QID, tramadol 25 mg q6h prn, 
warfarin 1 mg qd, Tylenol, senna, clotrimazole
- Stopped/Held Meds:  Xerelto
- Changed Meds:  None
- Follow-up appointments: PCP after rehab discharge
- Post-Discharge follow-up Labs Needed: Last hgb 11.3, cr 0.6, 
and inr 2.9. Please recheck INR everyday until on a stable 
warfarin regimen.
- Incidental Findings:  Endometrial thickness 7 mm. Will need 
biopsy if develops symptoms of postmenopausal bleeding (no 
bleeding this admission).
- Antibiotics for cellulitis: Will complete 10 day course of 
clindamycin on ___. d1 = ___ - ___.

# CODE:  Full code
# CONTACT:  Husband (___) ___  
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Rivaroxaban 15 mg PO DAILY 
2. Miconazole 2% Cream 1 Appl TP BID to back side 
3. Nystatin Cream 1 Appl TP BID to backside 
4. Influenza Vaccine Quadrivalent 0.5 mL IM NOW ___. Cyanocobalamin 500 mcg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Bisacodyl 10 mg PO DAILY Constipation - Second Line  
3.  Clindamycin 450 mg PO Q6H  
4.  Clotrimazole Cream 1 Appl TP BID  
5.  Senna 8.6 mg PO BID Constipation - First Line  
6.  TraMADol 25 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every 6 
hours Disp #*6 Tablet Refills:*0 
7.  Warfarin 1 mg PO DAILY16  
8.  Cyanocobalamin 500 mcg PO DAILY  
9.  Influenza Vaccine Quadrivalent 0.5 mL IM NOW ___.  Miconazole 2% Cream 1 Appl TP BID to back side  
11.  Nystatin Cream 1 Appl TP BID to backside  
12.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
====================
- Deep vein thrombosis
- Cellulitis

SECONDARY DIAGNOSIS
====================
- Drug-related dermatitis
- Hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___, 
   
You came to ___ because your left leg was red and swollen. You 
were found to have a blood clot in your leg and a skin 
infection. Please see more details listed below about what 
happened while you were in the hospital and your instructions 
for what to do after leaving the hospital.  
It was a pleasure participating in your care. We wish you the 
best!  

Sincerely,  
Your ___ Care Team  

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL:  
-You were started on a blood thinner called Coumadin which you 
should continue to take to treat your current clot and to 
prevent further clots.
-You were started on antibiotics to treat the skin infection 
which improved significantly.
- You improved considerably and were ready to leave the hospital 
 
WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL:  
- Please follow up with your primary care doctor and other 
health care providers (see below)  
- Please take all of your medications as prescribed (see below). 
 
- Seek medical attention if you have worsening pain or redness, 
diarrhea, shortness of breath, or other symptoms of concern. 

 
Followup Instructions:
___